US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-cyclopentyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Platinum oxide (100 mg) was added to a solution of 2-oxo-3-tert-butoxycarbonylamino-5-(2-cyclopenten-1-yl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.8 g) in anhydrous tetrahydrofuran (20 ml), the mixture was stirred at room temperature under ambient pressure under hydrogen atmosphere for 2 hours. The reaction mixture was filtrated through a pad of Celite, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography(ethyl acetate:n-hexane=1:2). Diisopropyl ether was added to the residue for crystallization, to thereby obtain 1.2 g of the title compound.

reactant | 2-oxo-3-tert-butoxycarbonylamino-5-(2-cyclopenten-1-yl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.8 g | O=C1C(CN(C2=C(N1)C=CC=C2)C2C=CCC2)NC(=O)OC(C)(C)C | C19H25N3O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | Platinum oxide | 100 mg | [Pt]=O
product | 2-oxo-3-tert-butoxycarbonylamino-5-cyclopentyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.2 g | O=C1C(CN(C2=C(N1)C=CC=C2)C2CCCC2)NC(=O)OC(C)(C)C | C19H27N3O3
